US08067457B2
In a round-bottom flask, a slurry of benzyl 4-{(3R)-3-[({[3-(trifluoromethyl)benzoyl]amino}acetyl)amino]pyrrolidin-1-yl}piperidine-1-carboxylate (0.690 g, 1.30 mmol) and Palladium (10%) on Carbon (0.200 g) in methanol (10 mL) was purged with hydrogen gas for 2 min.; the reaction was then subjected to 1 atm of hydrogen gas for 3 h. The flask was purged with Argon, then the mixture was filtered and concentrated to afford N-(2-oxo-2-{[(3R)-1-piperidin-4-ylpyrrolidin-3-yl]amino}ethyl)-3-(trifluoromethyl)benzamide (0.501 g, 97%) as an off-white solid. 1H-NMR (CDCl3) δ: 1.32-1.53 (m, 2H), 1.52-2.04 (m, 6H), 2.15-2.40 (m, 2H), 2.40-2.70 (m, 3H), 2.80-3.00 (m, 3H), 4.00-4.20 (m, 2H), 4.42 (bs, 1H), 6.77 (m, 1H), 7.40-7.55 (m, 1H), 7.53 (t, J=7.8 Hz, 1H), 7.73 (d, J=7.2 Hz, 1H), 7.98 (d, J=7.5 Hz, 1H), 8.08 (s, 1H). MS m/z: 399 (M+1).

reactant | benzyl 4-{(3R)-3-[({[3-(trifluoromethyl)benzoyl]amino}acetyl)amino]pyrrolidin-1-yl}piperidine-1-carboxylate | 1.30 mmol, 0.690 g | FC(C=1C=C(C(=O)NCC(=O)N[C@H]2CN(CC2)C2CCN(CC2)C(=O)OCC2=CC=CC=C2)C=CC1)(F)F | C27H31F3N4O4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 10 mL | CO | CH4O
catalyst | Palladium | [Pd] | Pd
product | N-(2-oxo-2-{[(3R)-1-piperidin-4-ylpyrrolidin-3-yl]amino}ethyl)-3-(trifluoromethyl)benzamide | 0.501 g, 97% | O=C(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)N[C@H]1CN(CC1)C1CCNCC1 | C19H25F3N4O2
